US07517994B2
(S)-2-(4-bromo-2-fluorophenylamino)-N-(2-hydroxypropoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxamide
To a solution of (S)-2-(4-bromo-2-fluorophenylamino)-N-(2-(tert-butyldimethylsilyloxy)propoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxamide (0.037 g, 0.0682 mmol) in THF (1.00 mL) was added 1 M HCl (0.682 mL, 0.682 mmol). The reaction mixture was stirred for one hour at room temperature. The reaction mixture was diluted with EtOAc and washed with saturated NaHCO3 (3×), saturated NaCl (1×), dried (Na2SO4), and concentrated under reduced pressure. Purification by flash column chromatography (methylene chloride/methanol, 30:1) gave 0.020 (69%) pure desired product as a yellow solid. MS ESI (+) m/z 428, 430 (M+, Br pattern) detected; 1H NMR (400 MHz, CD3OD) δ 7.55 (s, 1H), 7.40 (d, 1H), 7.24 (d, 1H), 6.68 (t, 1H), 3.86 (m, 1H), 3.71 (m, 1H), 3.58 (m, 1H), 3.40 (s, 3H), 2.12 (s, 3H), 1.10 (d, 3H).

reactant | (S)-2-(4-bromo-2-fluorophenylamino)-N-(2-(tert-butyldimethylsilyloxy)propoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxamide | 0.0682 mmol, 0.037 g | BrC1=CC(=C(C=C1)NC=1N(C(C(=CC1C(=O)NOC[C@H](C)O[Si](C)(C)C(C)(C)C)C)=O)C)F | C23H33BrFN3O4Si
reactant | HCl | 0.682 mmol, 1 M, 0.682 mL | Cl | ClH
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-(4-bromo-2-fluorophenylamino)-N-(2-hydroxypropoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxamide | BrC1=CC(=C(C=C1)NC=1N(C(C(=CC1C(=O)NOC[C@H](C)O)C)=O)C)F | C17H19BrFN3O4
